US20010020089A1
6-[(2,2-Diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carboxamide
Methyl 6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carboxylate (Preparation 4) (100 mg, 0.22 mmol) and 1-(2-aminoethyl)piperidine (0.31 ml, 2.19 mmol) were heated together at 130° C. for 2 hours. The excess amine was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with dichloromethane methanol (95:5 by volume) to afford the title compound as a yellow foam (104 mg).

reactant | Methyl 6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carboxylate | 0.22 mmol, 100 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OC)C1OCCCC1)C1=CC=CC=C1 | C26H27N5O3
reactant | 1-(2-aminoethyl)piperidine | 2.19 mmol, 0.31 ml | NCCN1CCCCC1 | C7H16N2
product | 6-[(2,2-Diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carboxamide | 104 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCN1CCCCC1)C1OCCCC1)C1=CC=CC=C1 | C32H39N7O2
